US04352930
2,4-Diamino-6-carbamoylmethyl-1,3,5-triazine (Ib).
Ethyl malonamate (34.7 g, 0.26 mole) and methanol (100 ml) were placed in a flash equipped with a dropping funnel, a stirrer, and a soda lime trap (to exclude CO2). The flask was cooled to about 15° C. in an ice-water bath. Freshly prepared biguanide (26.3 g, 0.26 mole, in 250 ml methanol) was added, with stirring, over 35 min at 15°-20° C. A white precipitate began to form within 8-9 min. The mixture was allowed to stir overnight at room temperature. It was then cooled to 15° C., and the white precipitate was filtered, washed with cold water to remove sodium sulfate, and finally washed with cold methanol. A crude yield of 32.7 g (76%) was obtained. A pure sample recrystallized from water had a mp of 295°-96° C. (dec.) when placed in a preheated bath at 295° C. Anal. calcd. for C5H8N6O: C, 36.59; H, 4.91; N, 48.76. Found: C, 36.73; H, 5.08; N, 48.51.

reactant | Ethyl malonamate | 0.26 mole, 34.7 g | C(CC(=O)N)(=O)OCC | C5H9NO3
reactant | CO2 | C(=O)=O | CO2
reactant | biguanide | 0.26 mole, 250 ml, 26.3 g | NC(=N)NC(=N)N | C2H7N5
solvent | methanol | 100 ml | CO | CH4O
product | 2,4-Diamino-6-carbamoylmethyl-1,3,5-triazine | NC1=NC(=NC(=N1)N)CC(N)=O | C5H8N6O
